US07759373B2
To acetic anhydride (2.39 ml) was added dropwise formic acid (0.97 ml) under ice-cooling, and the mixture was stirred at 50° C. for 30 minutes. The mixture was ice-cooled again, and diluted with tetrahydrofuran (9 ml). To the mixture were added 2-amino-1-(3-pyridyl)-1-butanone dihydrochloride (600 mg) and triethylamine (1.41 ml), and the mixture was stirred under ice-cooling for 1.5 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was triturated with ethyl acetate-diethyl ether to obtain 2-formylamino-1-(3-pyridyl)-1-butanone (440 mg) as colorless powder.

reactant | acetic anhydride | 2.39 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.97 ml | C(=O)O | CH2O2
reactant | 2-amino-1-(3-pyridyl)-1-butanone dihydrochloride | 600 mg | Cl.Cl.NC(C(=O)C=1C=NC=CC1)CC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.41 ml | C(C)N(CC)CC | C6H15N
product | 2-formylamino-1-(3-pyridyl)-1-butanone | 440 mg | C(=O)NC(C(=O)C=1C=NC=CC1)CC | C10H12N2O2
